US09422292B2
To a solution of 8-methoxy-1,4-dimethyl-5,6-dihydro-4H-pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepine (50 mg, 0.203 mmol) in toluene (2 mL) was added 4-iodobenzonitrile (94 mg, 0.406 mmol), Bis(dibenzylideneacetone) Palladium (28 mg, 0.03 mmol), 2-dicyclohexylphosphin-2′,6′-dimethoxybiphenyl (25 mg, 0.06 mmol) and cesium carbonate (132 mg, 0.406 mmol). The mixture was purged with N2 and stirred at 110° C. for 12 hours. The reaction mixture was washed with brine (5 mL), and then the mixture was filtered. The filtrate was extracted with acetic ester (10 mL×3), the combined organic phase was dried by anhydrous sodium sulphate, and then filtered. The filtrate was concentrated and purified by preparative HPLC (Mobile phase A: water with 0.05% ammonia solution; Mobile phase B: MeCN; column temperature: 30° C., Gradient: 30-60% B 10 min) to give 4-(8-methoxy-1,4-dimethyl-4H-pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-6(5H)-yl)benzonitrile (2.7 mg, 31%) as a colorless solid.

reactant | 8-methoxy-1,4-dimethyl-5,6-dihydro-4H-pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.203 mmol, 50 mg | COC=1C=CC2=C(NCC(C=3N2C(=NN3)C)C)N1 | C12H15N5O
reactant | 4-iodobenzonitrile | 0.406 mmol, 94 mg | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | cesium carbonate | 0.406 mmol, 132 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Bis(dibenzylideneacetone) Palladium | 0.03 mmol, 28 mg | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 4-(8-methoxy-1,4-dimethyl-4H-pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-6(5H)-yl)benzonitrile | 2.7 mg, 31% | COC=1C=CC2=C(N(CC(C=3N2C(=NN3)C)C)C3=CC=C(C#N)C=C3)N1 | C19H18N6O
